US07238699B2
2-Methyl-7-(2,4,6-trimethyl-phenyl)-6,7-dihydro-5H-imidazo[1,2-α]imidazole-3-carboxylic acid ethyl ester, (scheme 3: (P)2
A mixture of 3-ethoxycarbonylmethyl-1-(2,4,6-trimethyl-phenyl)-2-aminoimidazolium bromide (1.0 g, 2.7 mmol), sodium acetate (0.55 g, 6.75 mmol) and acetic anhydride (5.0 mL) was heated at 160° C. for 12 hr. Upon cooling, the mixture was poured into a flask containing ice. While stirring, excess sodium bicarbonate was added to the above mixture in small portions, and the resulting mixture was stirred at room temperature for 6 hr. Then, the mixture was extracted with dichloromethane (2×40 mL). The organic extracts were washed with water and dried over anhydrous sodium sulfate. Solvents were removed in vacuo and the residue was subjected to chromatography using ethyl acetate/hexanes (1:4) as eluent to afford the title compound as a light yellow oil which solidified upon cooling (0.344 g, 41% yield). 1H NMR (CDCl3, 300 MHz) δ 6.89 (s, 2H), 4.32 (q, J=7.1 Hz, 2H), 4.36-4.26 (m, 2H), 4.15-4.08 (m, 2H), 2.39 (s, 3H), 2.26 (s, 3H), 2.20 (s, 6H), 1.35 (t, J=7.1 Hz, 3H). Mass spec.: 314.15 (MH+).

reactant | 3-ethoxycarbonylmethyl-1-(2,4,6-trimethyl-phenyl)-2-aminoimidazolium bromide | 2.7 mmol, 1.0 g | [Br-].C(C)OC(=O)CN1C(=[N+](C=C1)C1=C(C=C(C=C1C)C)C)N
reactant | sodium acetate | 6.75 mmol, 0.55 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 5.0 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-Methyl-7-(2,4,6-trimethyl-phenyl)-6,7-dihydro-5H-imidazo[1,2-α]imidazole-3-carboxylic acid ethyl ester | 41% yield | C(C)OC(=O)C1=C(N=C2N1CCN2C2=C(C=C(C=C2C)C)C)C | C18H23N3O2
